US08629147B2
4-[(S)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-2-oxo-1,2-dihydro-pyridine-3-carbaldehyde
To a mixture of (S)-1-(3-chloro-phenyl)-2-(3-[1,3]dioxolan-2-yl-2-methoxy-pyridin-4-ylamino)-ethanol (223 mg, 0.64 mmol) and H2O (0.75 mL) was added HCl solution in dioxane (4 M, 10 mL). After it was heated at 70° C. for 4 h, the reaction mixture was evaporated to dryness. HPLC purification of the residue afforded the title compound (20.1 mg, 11%). 1H NMR (DMSO-d6) δ3.37 (m, 1H) 3.58 (m, 1H), 4.58 (m, 1H), 5.95 (d, J=6 Hz, 1H), 7.30-7.40 (3H), 7.49 (s, 1H), 9.94 (s, 1H, CHO), 10.30 (m, 1H, NH), 10.95 (m, 1H, 1H). ESI-MS m/z 293.3 (MH+).

reactant | (S)-1-(3-chloro-phenyl)-2-(3-[1,3]dioxolan-2-yl-2-methoxy-pyridin-4-ylamino)-ethanol | 0.64 mmol, 223 mg | ClC=1C=C(C=CC1)[C@@H](CNC1=C(C(=NC=C1)OC)C1OCCO1)O | C17H19ClN2O4
reactant | H2O | 0.75 mL | O | H2O
reactant | HCl | Cl | ClH
solvent | dioxane | 4 M, 10 mL | O1CCOCC1 | C4H8O2
product | 4-[(S)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-2-oxo-1,2-dihydro-pyridine-3-carbaldehyde | 20.1 mg, 11% | ClC=1C=C(C=CC1)[C@@H](CNC1=C(C(NC=C1)=O)C=O)O | C14H13ClN2O3
